US07521457B2
c) tert.butyl (3-tosyl-cyclobutyl)-carbamate
18.7 g (100 mmol) tert.butyl (3-hydroxy-cyclobutyl)-carbamate and 12.1 g (120 mmol) triethylamine are placed in 500 ml chloroform. 20.5 g (105 mmol) tosyl chloride, dissolved in 150 ml chloroform, is added dropwise to this solution at 0° C. with stirring. Then the mixture is left to come up to ambient temperature and stirred for 2 h. The organic phase is washed successively with water, dilute hydrochloric acid, sodium hydrogen carbonate solution and water. The organic phase is dried with magnesium sulphate and the solvent is eliminated in vacuo.

reactant | tert.butyl (3-hydroxy-cyclobutyl)-carbamate | 100 mmol, 18.7 g | OC1CC(C1)NC(OC(C)(C)C)=O | C9H17NO3
reactant | triethylamine | 120 mmol, 12.1 g | C(C)N(CC)CC | C6H15N
reactant | tosyl chloride | 105 mmol, 20.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | tert.butyl (3-tosyl-cyclobutyl)-carbamate | S(=O)(=O)(C1=CC=C(C)C=C1)C1CC(C1)NC(OC(C)(C)C)=O | C16H23NO4S
